US04863949
2-(3-Nitroxybutanoylamino)-ethylamine
30 g. 2-(3-Hydroxybutanoylamino)-ethylamine are slowly introduced, with stirring at 5° to 10° C., into 100% nitric acid. After stirring for 2 hours at 0° to 5° C., the reaction solution is stirred into 1 liter of ice-cooled anhydrous diethyl ether, the supernatant ethereal layer is decanted off, the separated oil is covered with methylene chloride and the base is liberated with sodium carbonate. After suction filtration and evaporation in a vacuum at a maximum bath temperature of 20° C., there are obtained 33 g. (84% of theory) of base in the form of an oil.

reactant | 2-(3-Hydroxybutanoylamino)-ethylamine | OC(CC(=O)NCCN)C | C6H14N2O2
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-(3-Nitroxybutanoylamino)-ethylamine | O([N+](=O)[O-])C(CC(=O)NCCN)C | C6H13N3O4
